US08957070B2
N-Methyl-2-(morpholin-4-ylcarbonyl)-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide
To a solution of 3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylic acid (100 mg), 1H-1,2,3-benzotriazol-1-ol (46 mg) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (58 mg) in N,N-dimethylformamide (2 mL) was added morpholine (100 μL), and the mixture was stirred at room temperature for 12 hr. To the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was crystallized from diethyl ether-hexane to give the title compound (61 mg, yield 52%) as colorless crystals. melting point 190° C.

reactant | 3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylic acid | 100 mg | CN(S(=O)(=O)C1=C(SC=C1)C(=O)O)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C17H13N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 46 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 58 mg | Cl.CN(CCCN=C=NCC)C
reactant | morpholine | 100 μL | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-Methyl-2-(morpholin-4-ylcarbonyl)-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 61 mg, yield 52% | CN(S(=O)(=O)C1=C(SC=C1)C(=O)N1CCOCC1)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C21H20N4O4S3
